US07741321B2
2,6-Dichloro-3-(trifluoromethyl)pyridine (5.00 g, 23.2 mmol) and 28% aqueous ammonia (150 mL) were placed in a 250 mL autoclave. The mixture was heated at 93° C. for 21 h. The reaction was cooled to rt and extracted with EtOAc (100 mL×3). The combined organic extracts were dried over anhydrous Na2SO4 and evaporated under vacuum to give the crude product, which was purified by column chromatography on silica gel (2-20% EtOAc in petroleum ether as eluant) to give 6-chloro-5-(trifluoromethyl)pyridin-2-amine (2.1 g, 46% yield). 1H NMR (400 MHz, DMSO-d6) δ 7.69 (d, J=8.4 Hz, 1H), 7.13 (br s, 2H), 6.43 (d, J=8.4 Hz, 1H). MS (ESI) m/z (M+H)+ 197.2

reactant | 2,6-Dichloro-3-(trifluoromethyl)pyridine | 23.2 mmol, 5.00 g | ClC1=NC(=CC=C1C(F)(F)F)Cl | C6H2Cl2F3N
reactant | ammonia | 150 mL | N | H3N
product | 6-chloro-5-(trifluoromethyl)pyridin-2-amine | 2.1 g, 46% yield | ClC1=C(C=CC(=N1)N)C(F)(F)F | C6H4ClF3N2
